US08492559B2
Stage 1: (E)-Methyl 2-(2-chloro-6-nitrophenyl)-3-hydroxybut-2-enoate
Methyl acetoacetate (59.82 mmol, 2.1 equiv.) was added dropwise at 0° C. to a suspension of NaH (65.52 mmol, 2.3 equiv.) in DMF (40 ml). Then the mixture was stirred for 10 min and subsequently heated to 25° C. 2-Fluoro-3-chloronitrobenzene (28.49 mmol, 1.0 equiv.) was cooled with an ice bath in a reaction flask, and the NaH suspension was added. Then stirring was carried out for 16 h at 25° C. 2 M HCl (5 ml) and water (10 ml) were then added, and extraction with diethyl ether (3×20 ml) was carried out. The combined organic phases were washed with water (10 ml) and sat. NaCl solution (20 ml), dried over Na2SO4 and reduced under reduced pressure. The residue was purified by column chromatography (5% ethyl acetate in hexane). Yield: 51%

reactant | Methyl acetoacetate | 59.82 mmol, 2.1 equiv. | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 65.52 mmol, 2.3 equiv. | [H-].[Na+]
reactant | 2-Fluoro-3-chloronitrobenzene | 28.49 mmol, 1.0 equiv. | FC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3ClFNO2
reactant | HCl | 2 M, 5 ml | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | (E)-Methyl 2-(2-chloro-6-nitrophenyl)-3-hydroxybut-2-enoate | Yield: 51% | ClC1=C(C(=CC=C1)[N+](=O)[O-])/C(/C(=O)OC)=C(/C)\O | C11H10ClNO5
